US03984546
1,2,3,4-Tetrahydro-8,9-dihydroxy-3-(2-piperidinoethyl)-5H-[1]benzopyrano[3,4-c]pyridin-5-one.
A solution of 4.7 g of 1,2,3,4-tetrahydro-8,9-dimethoxy-3-(2-piperidinoethyl)-5H-[1]benzopyrano[3,4-c] pyridin-5-one in 70 cc of 48% HBr was refluxed for 17 hr and cooled. Precipitate was cryst from water affording 2.8 g of product; mp 291°-295°C.

reactant | 1,2,3,4-tetrahydro-8,9-dimethoxy-3-(2-piperidinoethyl)-5H-[1]benzopyrano[3,4-c] pyridin-5-one | 4.7 g | COC1=CC2=C(C=C1OC)C1=C(CN(CC1)CCN1CCCCC1)C(O2)=O | C21H28N2O4
reactant | water | 2.8 g | O | H2O
solvent | HBr | 70 cc | Br | BrH
product | 1,2,3,4-Tetrahydro-8,9-dihydroxy-3-(2-piperidinoethyl)-5H-[1]benzopyrano[3,4-c]pyridin-5-one | OC1=CC2=C(C=C1O)C1=C(CN(CC1)CCN1CCCCC1)C(O2)=O | C19H24N2O4
